US07875728B2
Preparation of 5-methyl-4-[(2H-tetrazol-5-yl)hydrazono]-4H-pyrazol-3-ylamine
A solution of aminotetrazole (0.1 g, 1.1 mmol) in 4 M sulfuric acid (3.0 mL, 12.0 mmol) was cooled to −5° C. To this mixture was then added a cooled solution of sodium nitrite (0.08 g, 1.1 mmol) in 0.5 mL of water. The solution was then added to a solution of 3-amino-5-methylpyrazole (0.2 g, 2.1 mmol) and NaOAc trihydrate (1.5 g, 11 mmol) dissolved in a mixture of water (1 mL) and HOAc (3 mL). After stirring for 2 hours, water (50 mL) was added and the crude material was extracted from the aqueous layer three times with ethyl acetate (150 mL). The combined ethyl acetate solutions were washed with brine, dried over anhydrous MgSO4, filtered and evaporated. The crude material was purified by column chromatography (CHCl3:MeOH:NH4OH=3:1:0.005). The isolated material was then further purified by preparative TLC (CHCl3:MeOH:NH4OH=3:1:0.005) to yield 7 mg (3%) of the title compound as a red solid.

reactant | aminotetrazole | 1.1 mmol, 0.1 g | NC1=NN=NN1 | CH3N5
reactant | sulfuric acid | 12.0 mmol, 4 M, 3.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 1.1 mmol, 0.08 g | N(=O)[O-].[Na+]
reactant | 3-amino-5-methylpyrazole | 2.1 mmol, 0.2 g | NC1=NNC(=C1)C | C4H7N3
solvent | water | 0.5 mL | O | H2O
solvent | water | 1 mL | O | H2O
solvent | HOAc | 3 mL | CC(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 5-methyl-4-[(2H-tetrazol-5-yl)hydrazono]-4H-pyrazol-3-ylamine | 7 mg, 3% | CC=1C(C(=NN1)N)=NNC=1N=NNN1 | C5H7N9
